US06635772B2
Butyl acrylate (771.2 g, 6.02 mol) and benzoic acid (12.26 g, 0.10 mol) were added to 2,4-di-t-butyl-6-butoxymethyl-1-hydroxybenzene (665.2 g, net 586.71 g, 2.01 mol) obtained in Example 1, and the mixture was stirred while heating at 150-165° C. for 30 h. 1-Butanol produced by the reaction was removed. After the completion of the reaction, the reaction mixture was quantitatively analyzed by liquid chromatography according to the internal standard method. As a result, 6,8-di-t-butyl-2-butoxycarbonylchroman was obtained in a yield of 87% (1.74 mol). At this time, 6,8-di-t-butyl-3-butoxycarbonylchroman (a position isomer) was produced in about 8%. For use in the next step, excess butyl acrylate was distilled away under reduced pressure, toluene was added to the residue, and benzoic acid was removed with aqueous sodium hydrogen carbonate solution. The 1H-NMR data of the obtained 6,8-di-t-butyl-2-butoxycarbonylchroman are shown below.

reactant | Butyl acrylate | 6.02 mol, 771.2 g | C(C=C)(=O)OCCCC | C7H12O2
reactant | benzoic acid | 0.10 mol, 12.26 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2,4-di-t-butyl-6-butoxymethyl-1-hydroxybenzene | 2.01 mol, 665.2 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)COCCCC)O | C19H32O2
solvent | 1-Butanol | C(CCC)O | C4H10O
product | 6,8-di-t-butyl-2-butoxycarbonylchroman | yield of 87% | C(C)(C)(C)C=1C=C2CCC(OC2=C(C1)C(C)(C)C)C(=O)OCCCC | C22H34O3
